US08076488B2
Preparation of 4-(4-Aminophenoxy)pyridine-2-carboxylic acid dimethylcarbamoylmethylamide
The title compound was prepared in the same manner described for 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylcarbamoylmethylamide, substituting 2-amino-N,N′-dimethylacetamide hydrochloride for 2-amino-N-methylacetamide hydrochloride. 1H-NMR (DMSO-d6) δ 8.75 (t, J=4.8 Hz, 1H), 8.49 (d, J=5.4 Hz, 1H), 7.33 (d, J=2.7 Hz, 1H), 7.32 (d, J=2.7 Hz, 1H), 6.86 (d, J=8.7 Hz, 2H), 6.63 (d, J=9.0 Hz, 2H), 5.18 (s, 2H), 4.11 (d, J=5.4 Hz, 2H), 2.96 (s, 3H), 2.85 (s, 3H); MS LC-MS [M+H]+=315.

reactant | 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylcarbamoylmethylamide | CNC(=O)CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)N | C15H16N4O3
reactant | 2-amino-N-methylacetamide hydrochloride | Cl.NCC(=O)NC
product | 4-(4-Aminophenoxy)pyridine-2-carboxylic acid dimethylcarbamoylmethylamide | CN(C(=O)CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)N)C | C16H18N4O3
